US08110687B2
A solution of 7-({2-[(4-methoxybenzyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (21.5 g, 0.0532 mol), anisole (52 mL, 0.48 mol) and TFAA (100 mL, 2 mol) in DCM (400 mL) was stirred at 37° C. overnight. The solvent was removed by evaporation at 30° C. To the resulting mixture was added 1N NaOH (300 mL) and the solution was extracted with ether. The aqueous solution was acidified with conc. HCl to pH=3. The water layer was discarded, the residue was washed with water (3×). The solid was dried in vacuo overnight to give 7-[(2-aminopyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (14.3 g). The combined yield for steps 2 and 3 was 94%. 1H NMR (DMSO-d6, 400 MHz) 7.83 (d, 1H); 7.30 (s, 2H); 7.20 (d, 1H); 6.98 d, 1H); 6.95 (dd, 1H); 6.46 (dd, 1H); 5.95 (d, 1H); 3.70 (s, 2H); 2.60-3.00 (m, 5H); 2.09 (m, 1H); 1.72 (m, 1H). LCMS ES+ 285.3.

reactant | 7-({2-[(4-methoxybenzyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 0.0532 mol, 21.5 g | COC1=CC=C(CNC2=NC=CC(=C2)OC2=CC=C3CCC(CC3=C2)C(=O)O)C=C1 | C24H24N2O4
reactant | anisole | 0.48 mol, 52 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | TFAA | 2 mol, 100 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
product | 7-[(2-aminopyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 14.3 g | NC1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)O | C16H16N2O3
